US04997947
A solution of 57 g of titanium tetrachloride (TiCl4) in 100 ml of cyclohexane is added dropwise to a stirred solution of 75 g of 3-acetylthiophene and 160 g of morpholine in a liter of cyclohexane. When the addition is complete, the reaction mixture is further stirred at room temperature for 12 hours, then the precipitate is filtered off and the filtrate is concentrated by evaporation. The residue is distilled and has a boiling point of 98°/0.04 millibar. In this manner 36.5 g of 1-morpholino-1-(thiophen-3-yl)-ethylene are obtained in the form of a colourless oil.

reactant | 3-acetylthiophene | 75 g | C(C)(=O)C1=CSC=C1 | C6H6OS
reactant | morpholine | 160 g | N1CCOCC1 | C4H9NO
solvent | cyclohexane | 100 ml | C1CCCCC1 | C6H12
solvent | cyclohexane | a liter | C1CCCCC1 | C6H12
catalyst | titanium tetrachloride | 57 g | [Ti](Cl)(Cl)(Cl)Cl
product | 1-morpholino-1-(thiophen-3-yl)-ethylene | 36.5 g | O1CCN(CC1)C(=C)C1=CSC=C1 | C10H13NOS
